US05840732
ii) Synthesis of 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.15 g (3.65 mmol) of 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.33 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.00 g (77.9%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione | 3.65 mmol, 1.15 g | C(CCC)=C1C(N(C(S1)=O)CCC1=CC=CC=2N1C=CN2)=O | C16H17N3O2S
reactant | hydrochloric acid | 0.33 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[2-(imidazo[1,2-a]pyridin-5-yl)ethyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCC1=CC=CC=2N1C=CN2)=O | InChI=1S/C16H17N3O2S.ClH/c1-2-3-6-13-15(20)19(16(21)22-13)10-8-12-5-4-7-14-17-9-11-18(12)14;/h4-7,9,11H,2-3,8,10H2,1H3;1H
